US07875721B2
2-[4-(6-Bromo-benzo[1,3]dioxol-5-yl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethylamine
Trifluoroacetic acid (1.2 mL) was added dropwise to a solution of {2-[4-(6-bromo-benzo[1,3]dioxol-5-yl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethyl}-carbamic acid tert-butyl ester (0.15 g, 0.3 mmol) in dichloromethane (1.5 mL), and stirred at rt for 1 h. The reaction mixture was diluted with dichloromethane (15 mL) and washed with cold saturated NaHCO3. Organic layer dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude material was purified by preparative silica gel chromatography using 20% MeOH/DCM and gave the product as a colorless solid (0.115 g, 95%).

reactant | Trifluoroacetic acid | 1.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | {2-[4-(6-bromo-benzo[1,3]dioxol-5-yl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethyl}-carbamic acid tert-butyl ester | 0.3 mmol, 0.15 g | C(C)(C)(C)OC(NCCC1=CC=2C3C(C(NC2C=C1)C1=CC2=C(OCO2)C=C1Br)CC=C3)=O | C26H29BrN2O4
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-[4-(6-Bromo-benzo[1,3]dioxol-5-yl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethylamine | 0.115 g, 95% | BrC=1C(=CC2=C(OCO2)C1)C1NC=2C=CC(=CC2C2C1CC=C2)CCN | C21H21BrN2O2
